.title kicad schematic

* u3 net-_u3-pad1_ net-_u3-pad2_ net-_u3-pad3_ net-_u3-pad4_ a_gt_b a_lt_b a_eq_b valid dac_bridge_4
* u2 net-_u1-pad4_ net-_u1-pad5_ net-_u1-pad6_ net-_u3-pad1_ net-_u3-pad2_ net-_u3-pad3_ net-_u3-pad4_ frequency_comparator
* u7 valid plot_v1
* u4 a_gt_b plot_v1
* u5 a_lt_b plot_v1
* u6 a_eq_b plot_v1
* u1 clk_a clk_b rst net-_u1-pad4_ net-_u1-pad5_ net-_u1-pad6_ adc_bridge_3
* u10 clk_b plot_v1
* u9 rst plot_v1
* u8 clk_a plot_v1
v2 clk_b gnd pulse(0 5 0 0.1n 0.1n 4.8n 10n)
v1 clk_a gnd pulse(0 5 0 0.1n 0.1n 4.8n 10n)
v3 rst gnd pwl(0 5 20n 5 20.1n 0)
a1 [net-_u3-pad1_ net-_u3-pad2_ net-_u3-pad3_ net-_u3-pad4_ ] [a_gt_b a_lt_b a_eq_b valid ] u3
a2 [net-_u1-pad4_ ] [net-_u1-pad5_ ] [net-_u1-pad6_ ] [net-_u3-pad1_ ] [net-_u3-pad2_ ] [net-_u3-pad3_ ] [net-_u3-pad4_ ] u2
a3 [clk_a clk_b rst ] [net-_u1-pad4_ net-_u1-pad5_ net-_u1-pad6_ ] u1
* Schematic Name:                             dac_bridge_4, Ngspice Name: dac_bridge
.model u3 dac_bridge(out_low=0.0 out_high=5.0 out_undef=0.5 input_load=1.0e-12 t_rise=0.1n t_fall=0.1n ) 
* Schematic Name:                             frequency_comparator, Ngspice Name: frequency_comparator
.model u2 frequency_comparator(rise_delay=0.1n fall_delay=0.1n input_load=1.0e-12 instance_id=1 ) 
* Schematic Name:                             adc_bridge_3, Ngspice Name: adc_bridge
.model u1 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=0.1n fall_delay=0.1n ) 
.tran 10e-09 500e-09 0e-09

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
plot v(valid)
plot v(a_gt_b)
plot v(a_lt_b)
plot v(a_eq_b)
plot v(clk_b)
plot v(rst)
plot v(clk_a)
.endc
.end
