* C:\Users\mihir\eSim-Workspace\fwbgrectifier11\fwbgrectifier11.cir



.subckt fwbgrectifier11 vin vout GND

xM3  vin vin vout vout sky130_fd_pr__pfet_01v8 w=1 l=0.5	
xM1  vin vin Net-_M1-Pad3_ Net-_M1-Pad3_  sky130_fd_pr__nfet_01v8 w=.42 l=0.5
xM4  vin vin vout vout sky130_fd_pr__pfet_01v8 w=1 l=0.5
xM2  vin vin Net-_M1-Pad3_ Net-_M1-Pad3_ sky130_fd_pr__nfet_01v8 w=.42 l=0.5	
R1  vout GND 1000

.ends fwbgrectifier11

