* C:\Users\mihir\eSim-Workspace\gbrtmult42\gbrtmult42.cir



.subckt gbrtmult42 v1 v2 i1 i2 gnd vout1 vout2 

xm3 vout1 v2 i2 i2 sky130_fd_pr__nfet_01v8 W=6 L=0.18 M=1
xm1 vout1 v1 i1 i1 sky130_fd_pr__nfet_01v8 W=6 L=0.18 M=1
xm2 vout2 v2 i1 i1 sky130_fd_pr__nfet_01v8 W=6 L=0.18 M=1
xm4 vout2 v1 i2 i2 sky130_fd_pr__nfet_01v8 W=6 L=0.18 M=1



.ends gbrtmult42
