* c:\users\yamin\esim-workspace\debounce_controller\debounce_controller.cir

.include debounce_controller_subcircuit.sub
x1 clk reset noisy_in mode1 mode0 clean_out debounce_controller_subcircuit
v1 clk gnd pulse(0 5 0.5 0 0 0.5 1)

v2 reset gnd pulse(5 0 0.3 0 0 30 40)

v3 noisy_in gnd pulse(0 5 10 0 0 20 60)

v4 mode1 gnd dc 5
v5 mode0 gnd dc 5

v6 vcc gnd dc 5
* u6  clean_out plot_v1
* u5  clk plot_v1
* u1  reset plot_v1
* u2  noisy_in plot_v1
* u3  mode1 plot_v1
* u4  mode0 plot_v1
.tran 0.001e+00 30e+00 0e+00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
set xbrushwidth = 3
plot v(clean_out) +10 v(clk)+60v(reset)+50 v(noisy_in) +40v(mode1) +30v(mode0)+20
.endc
.end
