.title kicad schematic

* u6 o3 plot_v1
* u7 o4 plot_v1
* u5 o2 plot_v1
* u4 o1 plot_v1
* u3 net-_u3-pad1_ net-_u3-pad2_ net-_u3-pad3_ net-_u3-pad4_ o1 o2 o3 o4 dac_bridge_4
* u8 net-_u8-pad1_ net-_u8-pad2_ net-_u8-pad3_ net-_u8-pad4_ net-_u3-pad1_ net-_u3-pad2_ net-_u3-pad3_ net-_u3-pad4_ gray_converter
* u1 b3 b2 b1 b0 net-_u8-pad1_ net-_u8-pad2_ net-_u8-pad3_ net-_u8-pad4_ adc_bridge_4
v1 b0 gnd pulse(0 3.3 20n 1n 1n 20n 40n)
v3 b2 gnd pulse(0 3.3 20n 1n 1n 40n 80n)
v4 b3 gnd pulse(0 3.3 20n 1n 1n 80n 100n)
v2 b1 gnd pulse(0 3.3 20n 1n 1n 100n 200n)
a1 [net-_u3-pad1_ net-_u3-pad2_ net-_u3-pad3_ net-_u3-pad4_ ] [o1 o2 o3 o4 ] u3
a2 [net-_u8-pad1_ ] [net-_u8-pad2_ ] [net-_u8-pad3_ ] [net-_u8-pad4_ ] [net-_u3-pad1_ ] [net-_u3-pad2_ ] [net-_u3-pad3_ ] [net-_u3-pad4_ ] u8
a3 [b3 b2 b1 b0 ] [net-_u8-pad1_ net-_u8-pad2_ net-_u8-pad3_ net-_u8-pad4_ ] u1
* Schematic Name:                             dac_bridge_4, Ngspice Name: dac_bridge
.model u3 dac_bridge(out_low=0 out_high=3.3 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
* Schematic Name:                             gray_converter, Ngspice Name: gray_converter
.model u8 gray_converter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 instance_id=1 ) 
* Schematic Name:                             adc_bridge_4, Ngspice Name: adc_bridge
.model u1 adc_bridge(in_low=0.5 in_high=3.3 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
.tran 1e-09 200e-09 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
plot v(o3)
plot v(o4)
plot v(o2)
plot v(o1)
.endc
.end
