.title kicad schematic

* u14 rst plot_v1
* u13 clk plot_v1
v1 net-_u3-pad3_ gnd  dc 0
v17 clk gnd pulse(0 5 0 1n 1n 10n 20n)
v4 net-_u3-pad6_ gnd  dc 0
v3 net-_u3-pad5_ gnd  dc 0
v2 net-_u3-pad4_ gnd  dc 0
v18 rst gnd pwl(0n 5 10n 5 10.1n 0 100n 0)
* u5 net-_u5-pad1_ net-_u5-pad2_ net-_u5-pad3_ net-_u5-pad4_ net-_u5-pad5_ net-_u5-pad6_ net-_u5-pad7_ d6 d5 d4 d3 d2 d1 d0 dac_bridge_7
* u4 net-_u3-pad9_ net-_u3-pad10_ net-_u3-pad11_ net-_u3-pad12_ net-_u3-pad13_ net-_u3-pad14_ net-_u3-pad15_ net-_u3-pad16_ net-_u1-pad9_ net-_u1-pad10_ net-_u1-pad11_ net-_u1-pad12_ net-_u1-pad13_ net-_u1-pad14_ net-_u1-pad15_ net-_u1-pad16_ net-_u2-pad3_ net-_u2-pad4_ net-_u5-pad1_ net-_u5-pad2_ net-_u5-pad3_ net-_u5-pad4_ net-_u5-pad5_ net-_u5-pad6_ net-_u5-pad7_ hamming_distance
* u3 clk rst net-_u3-pad3_ net-_u3-pad4_ net-_u3-pad5_ net-_u3-pad6_ net-_u3-pad7_ net-_u3-pad8_ net-_u3-pad9_ net-_u3-pad10_ net-_u3-pad11_ net-_u3-pad12_ net-_u3-pad13_ net-_u3-pad14_ net-_u3-pad15_ net-_u3-pad16_ adc_bridge_8
* u7 d5 plot_v1
* u9 d3 plot_v1
* u11 d1 plot_v1
* u12 d0 plot_v1
* u6 d6 plot_v1
* u8 d4 plot_v1
* u10 d2 plot_v1
* u1 net-_u1-pad1_ net-_u1-pad2_ net-_u1-pad3_ net-_u1-pad4_ net-_u1-pad5_ net-_u1-pad6_ net-_u1-pad7_ net-_u1-pad8_ net-_u1-pad9_ net-_u1-pad10_ net-_u1-pad11_ net-_u1-pad12_ net-_u1-pad13_ net-_u1-pad14_ net-_u1-pad15_ net-_u1-pad16_ adc_bridge_8
* u2 net-_u2-pad1_ net-_u2-pad2_ net-_u2-pad3_ net-_u2-pad4_ adc_bridge_2
v15 net-_u2-pad1_ gnd  dc 5
v16 net-_u2-pad2_ gnd  dc 5
v12 net-_u1-pad6_ gnd  dc 5
v14 net-_u1-pad8_ gnd  dc 5
v13 net-_u1-pad7_ gnd  dc 5
v10 net-_u1-pad4_ gnd  dc 5
v11 net-_u1-pad5_ gnd  dc 5
v5 net-_u3-pad7_ gnd  dc 0
v9 net-_u1-pad3_ gnd  dc 5
v7 net-_u1-pad1_ gnd  dc 0
v6 net-_u3-pad8_ gnd  dc 0
v8 net-_u1-pad2_ gnd  dc 0
a1 [net-_u5-pad1_ net-_u5-pad2_ net-_u5-pad3_ net-_u5-pad4_ net-_u5-pad5_ net-_u5-pad6_ net-_u5-pad7_ ] [d6 d5 d4 d3 d2 d1 d0 ] u5
a2 [net-_u3-pad9_ ] [net-_u3-pad10_ ] [net-_u3-pad11_ ] [net-_u3-pad12_ ] [net-_u3-pad13_ ] [net-_u3-pad14_ ] [net-_u3-pad15_ ] [net-_u3-pad16_ ] [net-_u1-pad9_ ] [net-_u1-pad10_ ] [net-_u1-pad11_ ] [net-_u1-pad12_ ] [net-_u1-pad13_ ] [net-_u1-pad14_ ] [net-_u1-pad15_ ] [net-_u1-pad16_ ] [net-_u2-pad3_ ] [net-_u2-pad4_ ] [net-_u5-pad1_ ] [net-_u5-pad2_ ] [net-_u5-pad3_ ] [net-_u5-pad4_ ] [net-_u5-pad5_ ] [net-_u5-pad6_ ] [net-_u5-pad7_ ] u4
a3 [clk rst net-_u3-pad3_ net-_u3-pad4_ net-_u3-pad5_ net-_u3-pad6_ net-_u3-pad7_ net-_u3-pad8_ ] [net-_u3-pad9_ net-_u3-pad10_ net-_u3-pad11_ net-_u3-pad12_ net-_u3-pad13_ net-_u3-pad14_ net-_u3-pad15_ net-_u3-pad16_ ] u3
a4 [net-_u1-pad1_ net-_u1-pad2_ net-_u1-pad3_ net-_u1-pad4_ net-_u1-pad5_ net-_u1-pad6_ net-_u1-pad7_ net-_u1-pad8_ ] [net-_u1-pad9_ net-_u1-pad10_ net-_u1-pad11_ net-_u1-pad12_ net-_u1-pad13_ net-_u1-pad14_ net-_u1-pad15_ net-_u1-pad16_ ] u1
a5 [net-_u2-pad1_ net-_u2-pad2_ ] [net-_u2-pad3_ net-_u2-pad4_ ] u2
* Schematic Name:                             dac_bridge_7, Ngspice Name: dac_bridge
.model u5 dac_bridge(out_low=0.0 out_high=5.0 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
* Schematic Name:                             hamming_distance, Ngspice Name: hamming_distance
.model u4 hamming_distance(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 instance_id=1 ) 
* Schematic Name:                             adc_bridge_8, Ngspice Name: adc_bridge
.model u3 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             adc_bridge_8, Ngspice Name: adc_bridge
.model u1 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             adc_bridge_2, Ngspice Name: adc_bridge
.model u2 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
.tran 1e-09 100e-09 0e-09

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
plot v(rst)
plot v(clk)
plot v(d5)
plot v(d3)
plot v(d1)
plot v(d0)
plot v(d6)
plot v(d4)
plot v(d2)
.endc
.end
